US08664220B2
Step 3: {1-[4′-(3-Methyl-4-{1-methyl-2-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-ethylamino}-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-{1-methyl-2-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-ethyl}-amine and {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-{1-methyl-2-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-ethyl}-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F)C | C27H24BrF3N2O2
reactant | {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C19H27BO4
product | {1-[4′-(3-Methyl-4-{1-methyl-2-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-ethylamino}-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropyl}-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F)C)=O | C40H39F3N2O4
